US04065617
A. 3,5-dibenzylidene-1-butyl-4-piperidone, hydrochloride (1:1)
A stirred solution of 31 g of 1-butyl-4-piperidone and 64 g of benzaldehyde in 300 ml of ethanol is cooled to 15° C, treated dropwise with 66 ml of concentrated hydrochloric acid, refluxed for 5 hours, and maintained for about 16 hours at room temperature. The bulk of ethanol is evaporated and the syrupy residue is cooled, diluted to 600 ml with water, treated with 300 ml of ether, stirred, and rubbed; a solid gradually separates. After cooling for several hours, the solid is filtered, washed with ether, and air-dried; yielding 36.7 g of material, melting point 203°-205° C. Following crystallization from 100 ml of dimethylformamide, the material weighs 24.2 g; melting point 212°-214° C.

reactant | 1-butyl-4-piperidone | 31 g | C(CCC)N1CCC(CC1)=O | C9H17NO
reactant | benzaldehyde | 64 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 66 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3,5-dibenzylidene-1-butyl-4-piperidone, hydrochloride | 36.7 g | Cl.C(C1=CC=CC=C1)=C1CN(CC(C1=O)=CC1=CC=CC=C1)CCCC | InChI=1S/C23H25NO.ClH/c1-2-3-14-24-17-21(15-19-10-6-4-7-11-19)23(25)22(18-24)16-20-12-8-5-9-13-20;/h4-13,15-16H,2-3,14,17-18H2,1H3;1H
